US08124629B2
Diisopropylethylamine (4.95 mL, 27.8 mmol) was added at 0° C. to a stirred solution of dimethylamine (3.70 mL, 55.6 mmol) in tetrahydrofuran (25 mL) and the reaction mixture was stirred at room temperature for 15 minutes. A 0.1 M solution of 4-bromo-3-methyl-benzenesulfonyl chloride (3.0 g, 11 mmol) in tetrahydrofuran was added at room temperature and the reaction mixture was stirred at room temperature for 2 hours. The solvent was evaporated off under reduced pressure. The residue was diluted with ethyl acetate, and the inorganic salts were filtered through a celite bed. The filtrate was washed with 2 N aqueous HCl, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford 2.90 g (94%) of 4-bromo-3-methyl-N,N-dimethyl-benzenesulfonamide, which was used in subsequent reactions without further purification. MS cald. for C9H12BrNO2S [M+] 278.2, obsd. 280.0.

reactant | Diisopropylethylamine | 27.8 mmol, 4.95 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | 55.6 mmol, 3.70 mL | CNC | C2H7N
reactant | 4-bromo-3-methyl-benzenesulfonyl chloride | 11 mmol, 3.0 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6BrClO2S
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-bromo-3-methyl-N,N-dimethyl-benzenesulfonamide | 2.90 g, 94% | BrC1=C(C=C(C=C1)S(=O)(=O)N(C)C)C | C9H12BrNO2S
